US06528525B1
2-Butyl-3-[4-[2-(2-methoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-96 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(2-methoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate (500 mg), which is the product of Example 51, was reacted with aqueous sodium hydroxide solution (1N, 4.00 ml) and the reaction mixture was treated to give the title compound (293 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(2-methoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate | 500 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC | C24H32N2O5
reactant | sodium hydroxide | 1N, 4.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(2-methoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid | 293 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC | C22H28N2O5
